US08957073B2
To a round bottomed flask was added tert-butyl (1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-yl)carbamate (1.3145 g, 2.94 mmol) and hydrogen chloride, 1M in diethyl ether (0.089 ml, 2.94 mmol) to stir. Solvent was evaporated. The reaction mixture was diluted with saturated sodium bicarbonate and extracted with CH2Cl2. The organic extract was washed with water, saturated Na2CO3, saturated NaCl, dried over MgSO4, filtered and concentrated in vacuo to give 1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-amine (0.696 g, 2.009 mmol, 68.2% yield).

reactant | tert-butyl (1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-yl)carbamate | 2.94 mmol, 1.3145 g | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)N1CC(CC1)NC(OC(C)(C)C)=O | C25H30N6O2
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | 2.94 mmol, 0.089 ml | C(C)OCC | C4H10O
product | 1-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)pyrrolidin-3-amine | 2.009 mmol, 0.696 g, 68.2% yield | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)N1CC(CC1)N | C20H22N6
